US07678913B2
N-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)phenyl]-2-indol-3-ylmethyl-2-(4-chlorophenylaminocarbonylamino)-acetamide
To a solution of DL-tryptophan (102 mg, 0.50 mmol) in DMF (6 mL), 4-chlorophenyl isocyanate (77 mg, 0.50 mmol) was added. The mixture was then stirred at room temperature overnight. To the reaction mixture, 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine (180 mg, 1.02 mmol) and H2O (1 mL, to solubilize the amine) were added. To the solution, EDC (200 mg, 1.04 mmol) was added. After being stirred at room temperature overnight, the solution was concentrated in vacuo. The residue was purified by HPLC to give the titled compound as a powder (200 mg). MS 515.2 and 517.2 (M+H, Cl pattern).

reactant | DL-tryptophan | 0.50 mmol, 102 mg | NC(CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | 4-chlorophenyl isocyanate | 0.50 mmol, 77 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine | 1.02 mmol, 180 mg | CN1C(=NCC1)C1=CC=C(C=C1)N | C10H13N3
reactant | EDC | 1.04 mmol, 200 mg
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)phenyl]-2-indol-3-ylmethyl-2-(4-chlorophenylaminocarbonylamino)-acetamide | 200 mg | CN1C(=NCC1)C1=CC=C(C=C1)NC(C(NC(=O)NC1=CC=C(C=C1)Cl)CC1=CNC2=CC=CC=C12)=O | C28H27ClN6O2
